US03991203
Preparation of 1-benzyl-azacyclopentan-2-one
6.97 g (0.06 M) of γ-butyrolactone is mixed with 6.97 g (0.065 M) of benzylamine and heated at 190° for 24 hours. Excess benzylamine was removed at reduced pressure and the residue was distilled at 125°-130°/1 mm.

reactant | γ-butyrolactone | 0.06 M, 6.97 g | C1(CCCO1)=O | C4H6O2
reactant | benzylamine | 0.065 M, 6.97 g | C(C1=CC=CC=C1)N | C7H9N
product | 1-benzyl-azacyclopentan-2-one | C(C1=CC=CC=C1)N1C(CCC1)=O | C11H13NO
